US04592857
(1) Preparation of 4-hydroxyphenylglyoxal hydrate
Selenium dioxide (11.1 g, 0.1 mol) was added to a mixed solution of p-dioxane (60 cc) and water (2 cc) and dissolved therein on heating at 60° C., followed by adding 4-hydroxyacetophenone (13.6 g, 0.1 mol) all at once, reacting the mixture on heating under reflux for 4 hours, filtering off an inorganic material deposited after completion of the reaction, distilling off p-dioxane from the filtrate, adding water (80 cc) to the resulting red-brown oily material, heating the mixture with stirring at 80° C. for 2 hours, allowing the reaction liquid to cool down to room temperature after completion of the reaction, and filtering off and drying deposited crystals to obtain the objective product (10.7 g). M.p.: 109°~111° C.

reactant | Selenium dioxide | 0.1 mol, 11.1 g | [Se](=O)=O | O2Se
reactant | p-dioxane | 60 cc | O1CCOCC1 | C4H8O2
reactant | 4-hydroxyacetophenone | 0.1 mol, 13.6 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
solvent | water | 2 cc | O | H2O
product | 4-hydroxyphenylglyoxal hydrate | 10.7 g | O.OC1=CC=C(C=C1)C(=O)C=O | InChI=1S/C8H6O3.H2O/c9-5-8(11)6-1-3-7(10)4-2-6;/h1-5,10H;1H2
